2177-08-22 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -onc wants us to consult rad onc and to re-start methadone and remeron
   -pt aggitated overnight received 2g haldol, 3mg morphine
 BRONCHOSCOPY - At [**2177-8-21**] 11:15 AM
 INDWELLING PORT (PORTACATH) - START [**2177-8-21**] 12:04 PM
 BLOOD CULTURED - At [**2177-8-21**] 02:25 PM
 URINE CULTURE - At [**2177-8-21**] 02:25 PM
   Allergies:
   Codeine
   Nausea/Vomiting
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Severe Pain in
   Erythromycin Base
   Nausea/Vomiting
   Penicillins
   Anaphylaxis; Ra
   Prochlorperazine
   Unknown;
   Nalbuphine
   Confusion/Delir
   Iodine
   Anaphylaxis; Ra
   Phenothiazines
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2177-8-21**] 12:30 PM
   Fentanyl - [**2177-8-21**] 12:30 PM
   Haloperidol (Haldol) - [**2177-8-22**] 12:45 AM
   Morphine Sulfate - [**2177-8-22**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-8-22**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 135 (98 - 149) bpm
   BP: 169/98(116) {112/61(73) - 170/127(135)} mmHg
   RR: 21 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,649 mL
                                                                    716 mL
   PO:
             TF:
   IVF:
                                                                  1,649 mL
                                                                    716 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    625 mL
   Urine:
                                                                  1,755 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -106 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Vitals - T:97.9 BP:145/92 HR:124 RR:18 02 sat: 100%RA
   GENERAL: agitated at times. Pt saying "I want to go home," thin frail
   appearing
   SKIN: warm and well perfused, no rashes visible
   HEENT: anicteric sclera, pink conjunctiva, patent nares, MMM
   CARDIAC:  tachycardic, regular rate, S1/S2, no mrg
   LUNG: coarse rhonchi, episodes of stridorous upper airway sounds
   ABDOMEN: nondistended, +BS, diffusely tender, no rebound/guarding,
   midline staples and j tube in place.
   M/S: no cyanosis, clubbing or edema, no obvious deformities
   PULSES: 2+ DP pulses bilaterally
   NEURO:  Moving all ext spontaneously. No obvious focal deficits.
   Labs / Radiology
   587 K/uL
   11.7 g/dL
   162 mg/dL
   0.4 mg/dL
   29 mEq/L
   2.8 mEq/L
   4 mg/dL
   99 mEq/L
   140 mEq/L
   36.1 %
   17.0 K/uL
        [image002.jpg]
                             [**2177-8-22**]  03:57 AM
   WBC
   17.0
   Hct
   36.1
   Plt
   587
   Cr
   0.4
   Glucose
   162
   Other labs: PT / PTT / INR:13.4/52.5/1.1, Differential-Neuts:84.0 %,
   Lymph:10.1 %, Mono:5.4 %, Eos:0.3 %, Ca++:10.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
   71-year-old white female with eophageal CA, admitted to NEB and
   [**Hospital **] transferred to [**Hospital1 5**] for chemotherapy and XRT. She was
   transferred to the [**Hospital Unit Name 4**] for respiratory distress and emergent bronch.
   .
   PLAN:
   .
   #. Respiratory Distress: Pt with y-stent and presents with acute
   hypoxia. Pt with evidence of upper airway obstruction on exam
   concerning for mucus plugging given secreations and cough or
   malfunction of the Y-stent. Either malposition or obstruction.  Other
   possibilites, but less likely include PE (pt with underlying
   malignancy, but hypoxia was transient), pneumonia, PTX less likely
   given uncchanged CXR. Pt is able to maintain states at 100%.
   - cont nebs (albuterol, ipratropium, mucomyst)
   - cont mucinex [**Hospital1 **]
   - pulmonary toliet
   - Moxifloxacin per prior discharge for 2 more days
   - closely monitor resp status
   .
   #. Leukocytosis: Pt has been afebrile. DDx inlcudes reactive
   leukocytosis from aspiration pneumonitis. CXR did not show acute
   infiltrate concerning for pna.
   - pt was previously on Moxifloxacin at time of discharge, will complete
   2 week course. Hold on additional abx for now
   - cont to trend WBC
   - f/u BCx, UA/UCx
   .
   #Agitation: Possible medication induced. Pt with paradoxical reaction
   to ativan in the past per husband.  She did receive BZD this AM.
   - haldol 0.25prn for agitation
   - re-started fentanyl patch and
 home methadone dose
   .
   #. Tachycardia: Likely agitation and resp distress contributing. Pt was
   tachy on admission to 110-120's. Also likely dry given poor po intake.
   No ECG in record, but reportly sinus tach.
   - IV fluids, gentle 250cc NS bolus then maintence
   -will re-start tube feeds today if no further need for bronchoscopy
   .
   # Esophageal Ca: Chemotherapy per primary oncologist, Dr. [**Last Name (STitle) 876**]. Plan was
   to start chemo/XRT this admission.  Will follow-up with Onc.
   -consult Rad/Onc for starting XRT
   .
   # Nausea/vomiting: Patient doesn
t c/o nausea and no more dry heaves
   witnessed.
   - zofran prn
   - IV PPI
   .
   # Pain management: Holding pain meds given respiratory distress for
   now.  Will add back regimen after bronch and stablized.
   - restart methadone at
 home dose, fentanyl patches.
   .
   #HTN: continue home dose procardia
   .
   #Hypothyroidism: continue home dose of synthroid
   ICU Care
   Nutrition: Tube feeds to be re-started today
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2177-8-21**] 12:04 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to regular floor
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  71 yo F w/ remote breast ca s/p mastectomy
   and chemo and recent dx of esoph SCca with TE fistula s/p esophageal
   and bronchus Y stent 2 wks ago.  Admitted [**8-20**] for palliative chemo and
   transferred to ICU yesterday w/ resp distress (desat to 75%, BP
   stable but tachy to 160, refusing sx) for emergent bronch to eval stent
   patency. She remains comfortable from resp standpoint since her
   bronchoscopy. She has had transient agitation/confusion overnight.
   97.9  BP  112-160/60-90  HR 130  RR 20  sat  99% 2L.
   Cachectic F somnolent, confused but able to follow commands, lungs are
   clearer, still tachy, rr, +bs, soft, + J tube, no edema, warm ext
   WBC 17 K, HCT 36, na 140, K+2.8 , Cr 0.4
   CXR without focal infiltrate, flattened diaphragms, esoph stent visable
   Micro--cxs pending
   Her respiratory distress was most likely from plugging and has resolved
   post-bronch. Agree with plan to continue chest PT, pulm toilet, nebs
   with bronchodilators and mucolytics.  IP service is following. Continue
   moxiflox through [**8-23**] for prophylaxis after stent placement.  She
   continues to have a leukocytosos but remains af w/o obvious infectious
   etiology. Will f/u on pending cx's.  She remains tachycardic, near her
   baseline. Hypovolemia and possibly pain are likely factors. Continue
   gentle fluids and resume TFs.  Her agitation and confusion is better.
   If [**Name (NI) 4467**], would use haldol rather than benzos.  Additional onc
   recs regarding her plan for pallitaitve chemo/c/s rad onc. Zofran for
   nausea.  Will restart fent patch and half dose methadone for chronic
   pain.  ICU:  R portacath, sq hep, PPI, full code, which will continue
   to be addressed with onc team.
   Remainder of plan as outlined in resident note.
   Stable for floor transfer pending improvement in HR
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2177-8-22**] 01:45 PM ------

2177-08-23 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - pt had episodes of n/v given zofran -> NPO, given D5,1/2NS bolus and
   maintenance. Noted to have ?dystonic rxn (protrusion of tongue) with
   reglan -> D/C'd
   - dilaudid 1mg q3h prn for break through, methadone increased to 40 tid
   - restarted home remeron
   - haldol 0.5 IV at night with good effect
   - oncologist ([** 876**]) would like to start chemo today on OMED and get a CT
   scan for staging
   Allergies:
   Codeine
   Nausea/Vomiting
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Severe Pain in
   Erythromycin Base
   Nausea/Vomiting
   Penicillins
   Anaphylaxis; Ra
   Prochlorperazine
   Unknown;
   Nalbuphine
   Confusion/Delir
   Iodine
   Anaphylaxis; Ra
   Phenothiazines
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2177-8-22**] 08:30 AM
   Hydromorphone (Dilaudid) - [**2177-8-22**] 10:00 PM
   Haloperidol (Haldol) - [**2177-8-22**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2177-8-23**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-8-23**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 123 (95 - 137) bpm
   BP: 160/81(97) {124/53(30) - 172/113(117)} mmHg
   RR: 18 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,838 mL
                                                                    710 mL
   PO:
             TF:
   IVF:
                                                                  2,358 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                    545 mL
   Urine:
                                                                  2,835 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      3 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   GENERAL: Thin frail female in NAD.
   SKIN: warm and well perfused, no rashes visible
   HEENT: anicteric sclera, pink conjunctiva, patent nares, MMM
   CARDIAC:  tachycardic, regular rate, S1/S2, no mrg
   LUNG: coarse rhonchi, episodes of stridorous upper airway sounds
   ABDOMEN: nondistended, +BS, diffusely tender, no rebound/guarding,
   midline staples and j tube in place.
   M/S: no cyanosis, clubbing or edema, no obvious deformities
   PULSES: 2+ DP pulses bilaterally
   NEURO:  Alert to person, but not place or time.
   Labs / Radiology
   505 K/uL
   11.0 g/dL
   142 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   6 mg/dL
   102 mEq/L
   139 mEq/L
   33.9 %
   16.4 K/uL
        [image002.jpg]
                             [**2177-8-22**]  03:57 AM
                             [**2177-8-23**]  05:27 AM
   WBC
   17.0
   16.4
   Hct
   36.1
   33.9
   Plt
   587
   505
   Cr
   0.4
   0.5
   Glucose
   162
   142
   Other labs: PT / PTT / INR:13.5/25.0/1.2, Differential-Neuts:84.0 %,
   Lymph:10.1 %, Mono:5.4 %, Eos:0.3 %, Ca++:10.2 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.8 mg/dL
   Cultures:
   Urine ([**2177-8-21**]): negative, final
   Blood ([**8-21**], [**8-22**]): negative to date
   Pending reads:
   CT of the chest ([**2177-8-22**])
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
   71-year-old white female with eophageal CA, admitted to NEB and
   [**Hospital **] transferred to [**Hospital1 5**] for chemotherapy and XRT. She was
   transferred to the [**Hospital Unit Name 4**] for respiratory distress and emergent bronch.
   .
   PLAN:
   .
   #. Respiratory Distress: Pt with y-stent and presents with acute
   hypoxia. Pt with evidence of upper airway obstruction on exam
   concerning for mucus plugging given secreations and cough or
   malfunction of the Y-stent. Either malposition or obstruction.  Other
   possibilites, but less likely include PE (pt with underlying
   malignancy, but hypoxia was transient), pneumonia, PTX less likely
   given uncchanged CXR. Pt is able to maintain states at 100% on 2L, 94%
   on RA.
   - cont nebs (albuterol, ipratropium, mucomyst)
   - cont mucinex [**Hospital1 **]
   - pulmonary toliet
   - closely monitor resp status
   .
   #Pain control: Patient has had moments of agitation and poor pain
   control.
   --On home Fentanyl patch, acetaminophen, methadone 40 mg TID ([**Hospital1 **] at
   home), PRN Dilaudid for breakthrough.
   #Delirium: Patient remains to be delirious. Etiology likely
   multifactorial including pain/ICU environment/polypharm.
   --Manage pain.
   --Continuously redirect
   --Restraints in place
   --Haldol PRN for agitation
   . #. Tachycardia: Likely agitation and resp distress contributing. Pt
   was tachy on admission to 110-120's. Also likely dry given poor po
   intake. No ECG in record, but reportedly sinus tach.
   - Fluid boluses PRN
   -tube feeds initiated
   - Consider D/Cing nifedipine because reflex tachy
   #. Leukocytosis: Pt has been afebrile. DDx inlcudes reactive
   leukocytosis from aspiration pneumonitis. CXR did not show acute
   infiltrate concerning for pna.
   - pt was previously on Moxifloxacin at time of discharge, will complete
   2 week course (last day will be [**8-25**]) for stent prophylaxis. Hold on
   additional abx for now
   - cont to trend WBC
   - f/u BCx.
   - Urine culture: no growth to date
   .
   # Esophageal Ca: Chemotherapy per primary oncologist, Dr. [**Last Name (STitle) 876**]. Plan was
   to start chemo/XRT this admission.  Will follow-up with Onc.
   -Rad/Onc following. CT scan for radiation therapy will be on Monday.
   -Will be transferred to floors for chemo.
   .
   # Nausea/vomiting: Patient doesn
t c/o nausea and no more dry heaves
   witnessed.  Had dystonia? Rxn with Reglan.
   - zofran prn
   -Avoid reglan
   - IV PPI
   .
   #HTN: continue home dose nifedipine
   .
   #Hypothyroidism: continue home dose of synthroid
   ICU Care
   Nutrition: Tube feeds ordered
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2177-8-21**] 12:04 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Spoke to husband about care.
   Code status: Full code
   Disposition: Transfer to oncology